US08486963B2
Step 1: 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide
7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (67 mg, 0.18 mmol), O-(2-vinyloxy-ethyl)-hydroxylamine (18 mg, 0.18 mmol), HOBt (26 mg, 0.19 mmol), EDCI hydrochloride (37 mg, 0.19 mmol) and DIPEA (31 μL, 0.18 mmol) were suspended in DMF (3 mL). The reaction mixture was stirred at room temperature for 16 hours, during which time the reagents dissolved. The reaction mixture was concentrated in vacuo, the resultant residue dissolved in ethyl acetate (10 mL), washed with aqueous saturated sodium bicarbonate solution (10 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethylacetate in cyclohexane) to yield the title compound as a yellow solid (54 mg, 65%). LCMS (Method B): RT=3.38 min, M+H+=483.

reactant | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid | 0.18 mmol, 67 mg | FC1=C(C=CC(=C1)I)NC1=C(C=C2N1C=NC=C2)C(=O)O | C14H9FIN3O2
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.18 mmol, 18 mg | C(=C)OCCON | C4H9NO2
reactant | HOBt | 0.19 mmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 0.19 mmol, 37 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.18 mmol, 31 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 7-(2-Fluoro-4-iodo-phenylamino)-pyrrolo[1,2-c]pyrimidine-6-carboxylic acid (2-vinyloxy-ethoxy)-amide | 54 mg, 65% | C(=C)OCCONC(=O)C=1C=C2N(C=NC=C2)C1NC1=C(C=C(C=C1)I)F | C18H16FIN4O3
